US08895547B2
2-Hydroxy-2-methyl-1-(4-morpholin-4-ylmethylphenyl)propane-1-sulfonamide
Under inert gas, 0.410 g of N-(2,4-dimethoxybenzyl)-C-(4-morpholin-4-ylmethylphenyl)methanesulfonamide was initially charged in 5 ml of THF and then, at −78° C., 1.34 ml of a 1.6 N butyllithium solution in hexane were added dropwise. The reaction mixture was stirred for 5 minutes and then 0.29 ml of acetone was added dropwise. The mixture was stirred at constant temperature for 5 minutes, 0.22 ml of trifluoroacetic acid were added and the mixture was allowed to come to room temperature. The solvent was removed under reduced pressure. The residue was dissolved in 10 ml of dichloromethane, and 2 ml of trifluoroacetic acid were added. After stirring at room temperature for 16 h, 20 ml of 1M HCl were added and the aqueous phase was removed and concentrated. This gave the crude product with a molecular weight of 364.9 g/mol (C15H25N2O4S), which was used without further purification.

reactant | N-(2,4-dimethoxybenzyl)-C-(4-morpholin-4-ylmethylphenyl)methanesulfonamide | 0.410 g | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)CN2CCOCC2)C=CC(=C1)OC | C21H28N2O5S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | acetone | 0.29 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 0.22 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Hydroxy-2-methyl-1-(4-morpholin-4-ylmethylphenyl)propane-1-sulfonamide | OC(C(S(=O)(=O)N)C1=CC=C(C=C1)CN1CCOCC1)(C)C | C15H24N2O4S
